US08030438B2
Synthesis of 3-(diethoxyphosphoryl)thiophene
Under nitrogen, 0.0815 g (0.5 mmols) of 3-bromothiophene and 0.0231 g (0.02 mmols) of commercially available tetrakistriphenylphosphine palladium were dissolved in DMF, to which 0.0829 g (0.6 mmols) of commercially available diethyl phosphite and 0.0776 g (0.6 mmols) of diisopropylethylamine were added at room temperature. Thereafter, the reaction mixture was heated to 110° C. and stirred for 4 hours. After the reaction, the reaction mixture was cooled down to room temperature, to which a disodium hydrogen phosphate/sodium dihydrogen phosphate buffer solution, adjusted to pH=7, was added to the reaction mixture, followed by extraction with ethyl acetate. The organic phase was washed with a saturated saline solution and dried over anhydrous sodium sulfate. The solvent was removed by distilling off under reduced pressure, and the resulting crude product was purified with a silica gel column (ethyl acetate:hexane=1:1) to obtain the specified substance in the form of a yellow oil at a yield of 0.0782 g (yield: 71%).

reactant | 3-bromothiophene | 0.5 mmols, 0.0815 g | BrC1=CSC=C1 | C4H3BrS
reactant | diisopropylethylamine | 0.6 mmols, 0.0776 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | disodium hydrogen phosphate sodium dihydrogen phosphate | P(=O)(O)([O-])[O-].[Na+].[Na+].P(=O)(O)(O)[O-].[Na+]
reactant | diethyl phosphite | P(OCC)(OCC)[O-]
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-(diethoxyphosphoryl)thiophene | yield: 71% | C(C)OP(=O)(OCC)C1=CSC=C1 | C8H13O3PS
